US08053577B2
2-Cyclohexylideneacetic acid
Crude intermediate 23 was dissolved in 15 mL THF and 15 mL methanol. 30 mL aqueous 1N LiOH solution was added, and it was stirred at ambient temperature overnight. The next day, pH of the reaction system was adjusted to 1 with 6N hydrochloric acid, and the reaction mixture was extracted with ethyl acetate three times, and the ethyl acetate layers were combined and washed with water once, saturated aqueous NaCl solution once, dried over anhydrous MgSO4 for 2 hours, filtrated, and the filtrate was dried under vacuum to give 0.796 g of oily crude title product.

reactant | LiOH | 1N | [Li+].[OH-]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 2-Cyclohexylideneacetic acid | 0.796 g | C1(CCCCC1)=CC(=O)O | C8H12O2
